US06329370B1
3,4-Dihydroxy-5-methoxy-3H-isobenzofuran-1-one
A solution of 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide (11.6 g, 34 mmoles), prepared as described in example 56, in 10% HCl (80 ml) and acetic acid (80 ml) was refluxed for 18 hours. The solvents were evaporated and the crude taken up in toluene. The solid was washed with ethyl ether and brought to dryness to give 6.66 g of the title compound (quantitative yield) which was used as such in the subsequent step.

reactant | 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide | 34 mmoles, 11.6 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)N(CC)CC)C=CC1OC)C=O | C20H23NO4
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 80 ml | Cl | ClH
product | 3,4-Dihydroxy-5-methoxy-3H-isobenzofuran-1-one | 6.66 g, quantitative yield | OC1OC(C2=CC=C(C(=C12)O)OC)=O | C9H8O5
